US05811428
METHYL 5-CHLORO-6-METHYL-2-PYRAZINE CARBOXYLATE
To a solution of methyl 4,5-dihydro-6-methyl-5-oxo-2-pyrazine carboxylate (M. Mano, T. Seo, K. Imai, Chem. Pharm. Bull 10:3057-3063, 1980) in DMF (20 mL) was added POCl3 (20 mL). The reaction was refluxed for 0.5 h and then poured into ice. The aqueous layer was extracted with CHCl3 dried (MgSO4) and concentrated. The residue was chromatographed (SiO2, CHCl3) to provide the title compound (2.34 g, 52% yield); m.p. 49°-50° C.

reactant | methyl 4,5-dihydro-6-methyl-5-oxo-2-pyrazine carboxylate | CC=1C(NC=C(N1)C(=O)OC)=O | C7H8N2O3
reactant | POCl3 | 20 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | METHYL 5-CHLORO-6-METHYL-2-PYRAZINE CARBOXYLATE | 2.34 g, 52% yield | ClC=1N=CC(=NC1C)C(=O)OC | C7H7ClN2O2
